US04384135
2,6-Dichloro-4-trifluoromethylaniline (3.3 kg) in concentrated hydrochloric acid (25 liters) was stirred for 1 hour and then cooled to -6° C. A solution of sodium nitrite (1.41 kg) in water (3 liters) was added over a period of 4 hours keeping the temperature between -5° and -12°. The mixture was then stirred between -5° and 0° until all solid had dissolved (3.5 hours). The mixture was then added in 2 liter portions over a period of 35 minutes to a solution of cuprous chloride (1.5 kg) in concentrated hydrochloric acid with stirring. The dark solution was left to stand for 30 minutes, filtered, and extracted with dichloromethane (1×15 liters, then 2×10 liters). The extracts were washed with water (2×25 liters) dried (MgSO4) and evaporated under reduced pressure to give 3,4,5-trichlorobenzotrifluoride (2.2 kg) with a boiling range of 98°- 100°/40 Torr.

reactant | 2,6-Dichloro-4-trifluoromethylaniline | 3.3 kg | ClC1=C(N)C(=CC(=C1)C(F)(F)F)Cl | C7H4Cl2F3N
reactant | sodium nitrite | 1.41 kg | N(=O)[O-].[Na+]
reactant | hydrochloric acid | 25 liters | Cl | ClH
solvent | water | 3 liters | O | H2O
product | 3,4,5-trichlorobenzotrifluoride | 2.2 kg | ClC=1C=C(C=C(C1Cl)Cl)C(F)(F)F | C7H2Cl3F3
